US05840917
3-Thiophenecarboxyalic acid ethyl ester (1.98 g) was dissolved in acetonitrile (30 ml), and sulfuryl chloride (1.5 ml) was added under ice-cooling. The mixture was stirred at 10° C. for 30 minutes, and then 10% aqueous sodium thiosulfate (100 ml) was added. The resulting mixture was stirred at room temperature for 2 hours, and then extracted with diethyl ether. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a mixture of 5-chloro-3-thiophenecarboxylic acid ethyl ester and 2,5-dichloro-3-thiophenecarboxylic acid ethyl ester. This mixture was dissolved in a mixture of ethanol (15 ml) and tetrahydrofuran (15 ml), and 1N aqueous sodium hydroxide (20 ml) was added. The resulting mixture was stirred at room temperature, and then washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a mixture of 5-chloro-3-thiophenecarboxylic acid and 2,5-dichloro-3-thiophenecarboxylic acid (1.7 g). This mixture was suspended in toluene (15 ml), and oxalyl chloride (1.56 ml) was added dropwise. Further, N,N-dimethylformamide (1 drop) was added, and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduce pressure, and the concentrate was dissolved in ethyl acetate (10 ml). The resulting solution was added dropwise to a mixture of 25% aqueous ammonia (16 ml) and ethyl acetate (70 ml) with stirring under ice- cooling. The resulting mixture was stirred at room temperature for 10 minutes, and the organic layer was collected. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 5-chloro-3-thiophenecarboxamide (0.76 g).

reactant | sulfuryl chloride | 1.5 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium thiosulfate | 100 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-chloro-3-thiophenecarboxylic acid ethyl ester | C(C)OC(=O)C1=CSC(=C1)Cl | C7H7ClO2S
reactant | 2,5-dichloro-3-thiophenecarboxylic acid ethyl ester | C(C)OC(=O)C1=C(SC(=C1)Cl)Cl | C7H6Cl2O2S
reactant | 5-chloro-3-thiophenecarboxylic acid | ClC1=CC(=CS1)C(=O)O | C5H3ClO2S
reactant | 2,5-dichloro-3-thiophenecarboxylic acid | 1.7 g | ClC=1SC(=CC1C(=O)O)Cl | C5H2Cl2O2S
reactant | oxalyl chloride | 1.56 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 5-chloro-3-thiophenecarboxamide | 0.76 g | ClC1=CC(=CS1)C(=O)N | C5H4ClNOS
